US05530019
The procedure of Ex. 16 was repeated except that ethyl 4-[3-(4-methylvaleryl)-1-indolyl]butyrate obtained in Ex. 25 was used in place of ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]1-indolyl]butyrate to give 4-[3-(4-methylvaleryl)-1-indolyl]butyric acid.

reactant | ethyl 4-[3-(4-methylvaleryl)-1-indolyl]butyrate | CC(CCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)C | C20H27NO3
reactant | ethyl 4-[3-[8-(4-isobutylphenyl)undecanoyl]1-indolyl]butyrate | C(C(C)C)C1=CC=C(C=C1)C(CCCCCCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)OCC)CCC | C35H49NO3
product | 4-[3-(4-methylvaleryl)-1-indolyl]butyric acid | CC(CCC(=O)C1=CN(C2=CC=CC=C12)CCCC(=O)O)C | C18H23NO3
